Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7](=[O:8])[C:10]([H:11])([H:12])[H:13].[H:9],1.4720299343599998
[H:1]/[C:2]([C:3][C:4]([H:5])([H:6])[H:7])=[C:8]\[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14],4.50885082607
[H:1][O:2][C:3]#[C:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[C:5]([H:6])=[C:7]([H:8])[O:9][H:10].[H:1][O:2][C:3]#[C:4],5.94878772492
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:10]([H:11])[H:12].[H:9]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-1.86747801728
[C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-3.5124198472400003
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:7][O:8][C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:7][O:8],2.9003317993700004
[H:1][C:2].[O:3][C@:4]([H:5])([C:6]#[C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:3][C@:4]([H:5])([C:6]#[C:7][H:8])[C:9]([H:10])([H:11])[H:12],-6.23873427702
[C:1]#[C:2][O:3][C:4][O:6][C:7]([H:8])([H:9])[H:10].[H:5]>>[C:1]#[C:2][O:3][C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10],-4.00620602127
[H:1][C:2][O:3][C:4]=[C:9]([H:10])[H:11].[O:5]=[C:6]([H:7])[H:8]>>[H:1][C:2][O:3][C:4]([O:5][C:6]([H:7])[H:8])=[C:9]([H:10])[H:11],-1.37395149576
[C:1]=[C:2]([H:3])[C:4]([H:5])[C:6][C:9]([H:10])([H:11])[H:12].[O:7][H:8]>>[C:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12],-6.255211124369999
[O:1][C:2]1([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]1([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-0.48251589766
[O:1]=[C:2]1[C@:3]2([H:4])[C:5][C@:6]12[C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10],-2.45787819218
[C:7][H:8].[H:1][C:2][O:3][C:4]#[C:5][H:6]>>[H:1][C:2][O:3][C:4][C:5]([H:6])=[C:7][H:8],-4.3371914623800025
[C:6]([H:7])[H:8].[H:1][O:2][C:3](=[C:4][H:5])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-6.64441418455
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10][O:11][H:12]>>[H:1][C:2]=[C:3]([H:4])[H:5].[O:6][C:7]([H:8])([H:9])[C:10][O:11][H:12],0.814435582351
[O:1]=[C:2]([H:3])[C:4][O:5][H:6]>>[C:2]([H:3])#[C:4][O:5][H:6].[O:1],3.44697189707
[H:1][O:2][C:3]#[C:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]#[C:4],5.616623743069999
[C:1]([H:4])#[C:5][H:6].[C:2](#[C:3])[C:7]([H:8])([H:9])[H:10]>>[C:1]=[C:2]([C:3]([H:4])=[C:5][H:6])[C:7]([H:8])([H:9])[H:10],-0.90504437363
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][H:8]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6].[O:7][H:8],4.91404774298
[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])=[O:7],1.03267143804
[H:10].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.42829963392
[H:1][O:2]/[C:3]=[C:5](/[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14],-4.84835261232
[H:1][O:2][C:3][O:4][C:5]#[C:6][C:8]([H:9])[H:10].[H:7]>>[H:1][O:2][C:3][O:4][C:5][C:6]([H:7])=[C:8]([H:9])[H:10],-2.8168652866
[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])[H:10]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-4.63263905441
[H:9].[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]#[C:7][H:8])[O:10][H:11]>>[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]=[C:7]([H:8])[H:9])[O:10][H:11],-2.06645519849
[C:9][H:10].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10],-10.6206162522
[H:1][C:2]#[C:3]/[C:4](=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]#[C:3][C:4]([C:5]([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13],3.87090317935
[H:1][C:2]([H:3])([H:4])[C:5]([O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:13].[H:1][C:2]([H:3])([H:4])[C:5]([O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12])[C:14]([H:15])([H:16])[H:17],4.49785971222
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]1[C:3]([H:4])([H:5])[C:6]1([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.09757375414
[C:3][C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2]>>[H:1][O:2][C:3][C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-6.417997536980001
